US05929067
b) 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pent-2-enoic acid
A solution of 23.0 g of 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pent-2-enoic acid ethyl ester [see example 20d)] and 9.23 g of lithium hydroxide (monohydrate) in 240 ml of methanol, 175 ml of tetrahydrofuran and 72 ml of water is stirred at room temperature for 120 minutes and then concentrated by evaporation. The residue is dissolved in 200 ml of water, acidified to pH=2 with 0.1N hydrochloric acid and extracted three times using 200 ml of ethyl acetate each time. The combined organic phases are washed with water and saturated NaCl solution, dried (magnesium sulfate) and concentrated by evaporation. Filtration of the residue over silica gel with hexane/ethyl acetate 1:1 yields the title compound in the form of a yellow foam. Rf value=0.41 (methylene chloride/methanol 19:1). IR(CH2Cl2) cm-1 : 3050,1709, 1644, 1402, 1337,1277, 1183,1142, 905, 849, 821

reactant | 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pent-2-enoic acid ethyl ester | 23.0 g | C(C)OC(C=CC(CC1=CC2=CC=CC=C2C=C1)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C27H23F6NO3
reactant | lithium hydroxide | 9.23 g | [OH-].[Li+]
solvent | methanol | 240 ml | CO | CH4O
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | water | 72 ml | O | H2O
product | 4-[N-Methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(naphth-2-yl)-pent-2-enoic acid | CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C(C=CC(=O)O)CC1=CC2=CC=CC=C2C=C1 | C25H19F6NO3
